US09301951B2
2-(5-(diethylamino)-2-(3-(1-hydroxy-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzamido)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide
To a slurry of 2-(5-(diethylamino)-2-(3-iodobenzamido)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide (385 mg, 0.57 mmol), 3,6,9,12-tetraoxapentadec-14-yn-1-ol (175 mg, 0.75 mmol), Et3N (3 mL) and THF (2 mL) was added bis(triphenylphosphine)palladium(II)dichloride (12 mg, 0.017 mmol) and CuI (10 mg, 0.053 mmol) and purged well with nitrogen. The reaction mixture was stirred for 13 hours, then concentrated under vacuum and combined with the crude product from another run (0.15 mmol scale). Purification by flash chromatography on silica gel eluting (1% to 5% MeOH in DCM) gave the title compound (349 mg). 1H NMR (400 MHz, CDCl3, ppm) δ□12.51 (s, 1H), 8.83 (d, J=5.3 Hz, 1H), 8.42 (d, J=9.0 Hz, 1H), 8.21 (s, 1H), 7.99 (t, J=1.6 Hz, 1H), 7.94 (d, J=8.0 Hz, 1H), 7.75-7.68 (m, 2H), 7.65 (s, 1H), 7.60 (d, J=7.3 Hz, 1H), 7.58-7.54 (m, 2H), 7.48 (t, J=7.6 Hz, 1H), 7.42 (t, J=7.9 Hz, 1H), 6.98 (d, J=2.6 Hz, 1H), 6.76 (d, J=8.8 Hz, 1H), 4.76 (d, J=5.9 Hz, 2H), 4.48 (s, 2H), 3.82-3.80 (m, 2H), 3.72-3.70 (m, 2H), 3.67-3.63 (m, 4H), 3.60 (s, 4H), 3.53-3.51 (m, 2H), 3.32 (quar, J=7.2 Hz, 4H), 2.90 (s, 1H), 1.13 (t, J=6.8 Hz, 6H). MS (ES, m/z): 777.4 [M+H]+.

reactant | 2-(5-(diethylamino)-2-(3-iodobenzamido)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 0.57 mmol, 385 mg | C(C)N(C=1C=CC(=C(C1)C=1C=C(C(=O)NCC2=CC(=CC=C2)C(F)(F)F)C=CN1)NC(C1=CC(=CC=C1)I)=O)CC | C31H28F3IN4O2
reactant | 3,6,9,12-tetraoxapentadec-14-yn-1-ol | 0.75 mmol, 175 mg | C(COCCOCCOCCOCC#C)O | C11H20O5
reactant | Et3N | 3 mL | CCN(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.017 mmol, 12 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | CuI | 0.053 mmol, 10 mg | [Cu]I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(5-(diethylamino)-2-(3-(1-hydroxy-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzamido)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 349 mg | C(C)N(C=1C=CC(=C(C1)C=1C=C(C(=O)NCC2=CC(=CC=C2)C(F)(F)F)C=CN1)NC(C1=CC(=CC=C1)C#CCOCCOCCOCCOCCO)=O)CC | C42H47F3N4O7
